US07906517B2
Ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(6-chloro-pyrimidin-4-yloxy)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate (170 mg) is dissolved in toluene (5 ml), and thereto are added diisopropylethylamine (136 μl), 2.0M-dimethylamine/tetrahydrofuran solution (0.4 ml) and the mixture is stirred at 50° C. for 1 day. The reaction solution is cooled to room temperature, and thereto are added aqueous citric acid solution and ethyl acetate, and the mixture is separated. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=4:1→2:1) to give ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(6-dimethylamino-pyrimidin-4-yloxy)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate (115 mg). MS (m/z): 747 [M+H]+

reactant | Ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(6-chloro-pyrimidin-4-yloxy)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate | 170 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)OC2=NC=NC(=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C31H25ClF9N5O4
reactant | diisopropylethylamine | 136 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylamine tetrahydrofuran | 0.4 ml | CNC.O1CCCC1
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(6-dimethylamino-pyrimidin-4-yloxy)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate | 115 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)OC2=NC=NC(=C2)N(C)C)C=C(C1)C(F)(F)F)(F)F | C33H31F9N6O4
